US08053438B2
A solution of 1-methylpiperidine-2,4-dione (0.295 g, 2.320 mmol) and pyridine (0.378 mL) in dichloromethane (14.50 mL) under argon was cooled to −78° C. and added trifluoromethanesulfonic anhydride (0.468 mL, 2.78 mmol). After stirring at −78° C. for 10 min, the reaction was warmed to 0° C. and stirred for 1 h. The mixture was quenched with aqueous saturated NH4Cl solution and extracted with CH2Cl2; the aqueous layer was back-extracted with CH2Cl2 (2×). The combined organic extracts were dried (MgSO4), filtered, and concentrated in vacuo. Flash column chromatography on basic alumina (10% to 50% Teac/Hexanes) gave 1-methyl-6-oxo-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate as a colorless oil. [M+1]=260.0.

reactant | 1-methylpiperidine-2,4-dione | 2.320 mmol, 0.295 g | CN1C(CC(CC1)=O)=O | C6H9NO2
reactant | pyridine | 0.378 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 2.78 mmol, 0.468 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 14.50 mL | ClCCl | CH2Cl2
product | 1-methyl-6-oxo-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1CCN(C(C1)=O)C)(F)F | C7H8F3NO4S
